US07691877B2
6-Allyl-N2,N4-dibenzyl-3-nitro-pyridine-2,4-diamine (1.0 g, 2.7 mmol) was suspended in a mixture of 15 ml tetrahydrofuran and 30 ml water. Upon the addition of potassium osmate (148 mg, 0.4 mmol) and sodium periodate (1.17 g, 5.4 mmol), the solution was stirred vigorously at room temperature for 30 minutes. Ethyl acetate (20 ml) was added to the reaction mixture and the phases partitioned, the organic extract dried over magnesium sulphate, concentrated in vacuo and purified by column chromatography on silica, eluting with 100% EtOAc to afford 3-(4,6-Bis-benzylamino-5-nitro-pyridin-2-yl)-propane-1,2-diol (992 mg, 91%). The intermediate diol was stirred in 20 ml acetone in the presence of sodium periodate (1.17 g, 5.5 mmol). After 2 h the solution was partitioned between EtOAc and water, the organic extract dried (MgSO4) and concentrated to give the title compound as an orange oil, (962 mg, 96%).

reactant | 6-Allyl-N2,N4-dibenzyl-3-nitro-pyridine-2,4-diamine | 2.7 mmol, 1.0 g | C(C=C)C1=CC(=C(C(=N1)NCC1=CC=CC=C1)[N+](=O)[O-])NCC1=CC=CC=C1 | C22H22N4O2
reactant | sodium periodate | 5.4 mmol, 1.17 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 3-(4,6-Bis-benzylamino-5-nitro-pyridin-2-yl)-propane-1,2-diol | 992 mg, 91% | C(C1=CC=CC=C1)NC1=CC(=NC(=C1[N+](=O)[O-])NCC1=CC=CC=C1)CC(CO)O | C22H24N4O4
